US07981882B2
(+/−)-7-Chloro-3-(2,2,2-trifluoroacetyl)-6-(2-methyl-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Place 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (prepared essentially as described in Preparation 1) (3 g, 7.08 mmol) in toluene (60 mL) with 3-(2-methyl-[1,3]dioxolan-2-yl)-propylamine (prepared essentially as described in Preparation 38) (3.08 g, 21.24 mmol), tris(dibenzylideneacetone)dipalladium (1.3 g, 1.42 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binapthyl (1.77 g, 2.84 mmol), and cesium carbonate (3.3 g, 9.91 mmol) and heat for 16 h at 95° C. in a sealed tube. Cool the reaction to RT, dilute with EtOAc (600 mL) and filter. Concentrate the filtrate and purify (silica gel chromatography, eluting with 10:90 to 25:75 EtOAc:hexanes) to give the crude product as an orange oil (1.72 g). Dissolve 7-chloro-3-(2,2,2-trifluoroacetyl)-6-[3-(2-methyl[1,3]dioxolan-2-yl)-propylamino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.72 g, 4.09 mmol) in DCM (20 mL) and add methanol (2 mL) and 2 N HCl in diethyl ether (20 mL) and stir at RT for 3 h. Concentrate and dissolve the residue in acetic acid (30 mL) and add sodium cyanoborohydride (1.28 g, 20.43 mmol). Stir the reaction at RT for 0.5 h then concentrate to remove the acetic acid. Dissolve the residue in DCM (200 mL) and extract with saturated aqueous sodium bicarbonate solution (400 mL), Extract the aqueous layer with DCM (100 mL) and combine the organic fractions, dry (sodium sulfate), concentrate and purify (silica gel chromatography, eluting with 10:90 EtOAc:hexanes) to give the title compound as a foam (1.2 g, 81%).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 3-(2-methyl-[1,3]dioxolan-2-yl)-propylamine | CC1(OCCO1)CCCN | C7H15NO2
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 2.84 mmol, 1.77 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 9.91 mmol, 3.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-[3-(2-methyl[1,3]dioxolan-2-yl)-propylamino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 4.09 mmol, 1.72 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCCCC1(OCCO1)C | C19H24ClF3N2O3
reactant | HCl | 2 N | Cl | ClH
reactant | sodium cyanoborohydride | 20.43 mmol, 1.28 g | C(#N)[BH3-].[Na+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 1.42 mmol, 1.3 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol | 2 mL | CO | CH4O
product | (+/−)-7-Chloro-3-(2,2,2-trifluoroacetyl)-6-(2-methyl-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.2 g, 81% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)N1C(CCC1)C | C17H20ClF3N2O
